US03932663
The required β-methylaminoethyltriphenylphosphonium phosphonium bromide was prepared by heating a mixture of β-phenoxyethyltriphenyl phosphonium-bromide (46.2 g.) dissolved in ethanol (80 ml.) and 33% ethanolic methylamine (130 ml.) in an autoclave at 100°C for three hours. After cooling, the product was precipitated by addition of dry ether (2 1.) filtered, washed with ether and dried, and had a melting point of 226°C.

reactant | β-phenoxyethyltriphenyl phosphonium-bromide | 46.2 g | [Br-].O(C1=CC=CC=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methylamine | 130 ml | CN | CH5N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | β-methylaminoethyltriphenylphosphonium phosphonium bromide | [Br-].[PH4+].CNCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Br-] | InChI=1S/C21H23NP.2BrH.H3P/c1-22-17-18-23(19-11-5-2-6-12-19,20-13-7-3-8-14-20)21-15-9-4-10-16-21;;;/h2-16,22H,17-18H2,1H3;2*1H;1H3/q+1;;;/p-1
